US06177443B1
2-(2-Thienyl)-ethylamine (5 g, 39.4 mmol), 4-dimethylaminobenzaldehyde (5.9 g, 94 mmol) triethylamine (6 ml) and ethanol (150 ml) were mixed at room temperature. The reaction mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated to 75 ml by evaporation in vacuo and the solid formed was filtered and dried to afford 6.82 g (67%) dimethyl-{4-[(2-thiophen-2-yl-ethylimino)-methyl]-phenyl}-amine.

reactant | 2-(2-Thienyl)-ethylamine | 39.4 mmol, 5 g | S1C(=CC=C1)CCN | C6H9NS
reactant | 4-dimethylaminobenzaldehyde | 94 mmol, 6 ml, 5.9 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | dimethyl-{4-[(2-thiophen-2-yl-ethylimino)-methyl]-phenyl}-amine | 6.82 g, 67% | CN(C1=CC=C(C=C1)C=NCCC=1SC=CC1)C | C15H18N2S
